US06348474B1
Dimethyl 2-((2,4-dichlorophenyl)acetylamino)terephthalate
A mixture of dimethyl 2-aminoterephthalate (2.09 g), 2,4-dichlorophenylacetic acid (2.05 g), N,N-dimethylaminopyridine (1.32 g) and dicyclohexylcarbodiimide (2.22 g) in tetrahydrofuran (20 ml) was stirred at room temperature for 2 hr and then at 80° C. for 4 hr. After cooling, the precipitate was filtered off and the filtrate was washed with 1N hydrochloric acid. Chloroform mixture was added to the obtained organic layer, and the mixture was washed with a saturated aqueous sodium hydrogencarbonate solution and dried over sodium sulfate. The solvent was distilled away and the residue was washed with water and methanol to give the object compound (2.54 g) as white crystals.

reactant | dimethyl 2-aminoterephthalate | 2.09 g | NC1=C(C(=O)OC)C=CC(=C1)C(=O)OC | C10H11NO4
reactant | 2,4-dichlorophenylacetic acid | 2.05 g | ClC1=C(C=CC(=C1)Cl)CC(=O)O | C8H6Cl2O2
reactant | dicyclohexylcarbodiimide | 2.22 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | Dimethyl 2-((2,4-dichlorophenyl)acetylamino)terephthalate | 2.54 g | ClC1=C(C=CC(=C1)Cl)CC(=O)NC1=C(C(=O)OC)C=CC(=C1)C(=O)OC | C18H15Cl2NO5
